US04038065
Ethyl cyanoacetate (113 g., 1.0 mole) and isobutylamine (73 g., 1.0 mole) were refluxed with stirring for 2 hours to give N-isobutyl cyanoacetamide.

reactant | Ethyl cyanoacetate | 1.0 mole, 113 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | isobutylamine | 1.0 mole, 73 g | C(C(C)C)N | C4H11N
product | N-isobutyl cyanoacetamide | C(C(C)C)NC(CC#N)=O | C7H12N2O
